US07618990B2
2-(4-Bromo-2-fluorophenyl)-2-oxoethyl thiocyanate (2.1 g, 7.6 mmol), prepared in the previous step, in 15 mL of 33% hydrogen bromide in acetic acid was stirred overnight. The reaction was neutralized with 60 mL of 2N NaOH and 60 mL of water. The resulting residue was collected by suction filtration and placed under high vacuum to give 2.6 g of a brown paste. The crude product was purified on silica gel using a stepwise gradient of 5-20% ethyl acetate:hexane to give 2-bromo-4-(4-bromo-2-fluorophenyl)-1,3-thiazole (2.5 g, 98%), MS (ES) m/z 338 [M+H]+.

reactant | 2-(4-Bromo-2-fluorophenyl)-2-oxoethyl thiocyanate | 7.6 mmol, 2.1 g | BrC1=CC(=C(C=C1)C(CSC#N)=O)F | C9H5BrFNOS
reactant | NaOH | 2N, 60 mL | [OH-].[Na+]
reactant | water | 60 mL | O | H2O
reactant | hydrogen bromide | 15 mL | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-bromo-4-(4-bromo-2-fluorophenyl)-1,3-thiazole | 2.5 g, 98% | BrC=1SC=C(N1)C1=C(C=C(C=C1)Br)F | C9H4Br2FNS
